US05270309
Treatment of 2-diisopropylaminoethyl 4-benzyloxy-5,7-dichloroquinoline-2-carboxylate (0.85 g) with hydrogen bromide in acetic acid (15 ml, 48%) as described in Example 33d gave 2-diisopropylaminoethyl 5,7-dichloro-4-oxo-1,4-dihydroquinoline-2-carboxylate hydrobromide (0.24 g), m.p. 220° C. (dec). δ (360 MHz, DMSO-d6) 1.33 (12H, 2d, CH3), 3.63 (2H, bs, CH2N), 3.74 (2H, m, CH), 4.63 (2H, t, CO2CH2), 6.70 (1H, s, 3-H), 7.46 (1H, d, 6-H), 8.02 (1H, d, 8-H), 8.90 (1H, bs, NH) and 12.14 (1H, bs, NH). (Found: C, 45.44; H, 4.87; N, 5.85%. C18H22Cl2N2O3. HBr.H2O requires C, 45.49; H, 5.09; N, 5.90%).

reactant | 2-diisopropylaminoethyl 4-benzyloxy-5,7-dichloroquinoline-2-carboxylate | 0.85 g | C(C1=CC=CC=C1)OC1=CC(=NC2=CC(=CC(=C12)Cl)Cl)C(=O)OCCN(C(C)C)C(C)C | C25H28Cl2N2O3
reactant | hydrogen bromide | Br | BrH
solvent | acetic acid | 15 ml | C(C)(=O)O | C2H4O2
product | 2-diisopropylaminoethyl 5,7-dichloro-4-oxo-1,4-dihydroquinoline-2-carboxylate hydrobromide | 0.24 g | Br.ClC1=C2C(C=C(NC2=CC(=C1)Cl)C(=O)OCCN(C(C)C)C(C)C)=O | InChI=1S/C18H22Cl2N2O3.BrH/c1-10(2)22(11(3)4)5-6-25-18(24)15-9-16(23)17-13(20)7-12(19)8-14(17)21-15;/h7-11H,5-6H2,1-4H3,(H,21,23);1H
